### ISSUE TITLE
A proof of leftpad in modern Lean 4

### ISSUE THREAD

**Issue by suhr** [hwayne/lets-prove-leftpad#59]
```lean
/-- The famous leftPad function -/
def leftPad (n: Nat)(a: Char)(s: String): String :=
  "".pushn a (n - s.length) ++ s

theorem leftpad_length (n: Nat)(a: Char)(s: String)
    : (leftPad n a s).length = max n (s.length) :=
  by simp [leftPad, Nat.sub_add_eq_max]

theorem String.data_pushn (s: String) (c: Char) (n: Nat)
    : (s.pushn c n).data = s.data ++ (List.replicate n c) := by
  unfold String.pushn
  refine n.recOn ?z ?s
  case z => simp [Nat.repeat]
  case s =>
    intro n (ih: (Nat.repeat (·.push c) n s).data = s.data ++ List.replicate n c)
    simp [Nat.repeat, ih]
    exact Eq.symm List.replicate_succ'

theorem leftpad_prefix (n: Nat)(a: Char)(s: String) :
    (List.replicate (n - s.length) a) <+: (leftPad n a s).data := by
  unfold leftPad
  simp [String.data_append, String.data_pushn]

theorem leftpad_suffix (n: Nat) (a: Char) (s: String) :
    s.data <:+ (leftPad n a s).data := by
  unfold leftPad
  simp [String.data_append, String.data_pushn]
```

Yes, that's all ([try it online](https://live.lean-lang.org/#codez=PQWhAIBUAsFNwGYEMC2B7ArgZ3AG1ggC4AKSAJohgHYDGhAlmleCMAFBkF4EnngAUVAFzgAckkIBKfkhEBhaEgBO0rCIDKhJfSoBzSRq07d4IQF424cACJrAOgAO2aMyQDmELHfx7C0SeAA1IHgWGxsfrBoSrAo3EQO5AD6Prp+7iLiUjLyiir8auCa2nqSllamAvhEpBSuoZLesL7Q4GbgKEgAHuDMBU0tAeblAEYAnqH0KA7gANrVvGQANGISdlgYI0nkZEmwAI5JnV0AuuGR0bFFRnp2ZBJISU5YLgKFxcYB/DS5yl/Cqyk5SsIn6z1eNF6jXuhDc7S8MLcwQEABl6FhCHYYg5cPQaBJ4MwaEN2uNytQEGhcBQPrdwVRyjEEDpCVjYDQAPLMAD8AC9wNywlZ8Vh4PyzAA+SbTOZZNkOWASM7CpCi0JtCXA8A6LRoXoCejQUFy7GKwgCADtjmc4GJ+qw0IebVCdydyLRGPluPxhEJtrKFWlM1mJtgCokK0NyoqsC6SDo4AAovt1mMUHEPZjsd6CUkNjQaAByc5wS5xBaJXYOJn0HqCTISaSycAKP4FQwlfSmLX8TNevEE9wsF2pPwBJABAA8gVBC1q+rcDtdsNMpLG5KolOp8UW5SwU2DtN0y8eSAcCqoy2unZPT2cVDOEVLMXLPEreYwCGZdYBWS+zdbFQ3g7T5u0DBEnUnIQQn4Oc+HqJdEVXcAySsCkqQoOCyD3A85iPW8zwvK98MRO8XgfNggA)). I have no idea why the proof in the repo is so long.

Updating Lean to 4.16.0 breaks the proof in the repo. Should I just throw it away and replace it with this one?

cast @gabriel-fallen

**Comment by hwayne** [comment]
It looks like there's *two* Leans in the repo: https://github.com/hwayne/lets-prove-leftpad/blob/master/lean4/leftpad.lean#L5 is for lists, and https://github.com/hwayne/lets-prove-leftpad/blob/master/lean4/leftpad.lean#L50 is for strings. Do both break, or just one?

Otherwise, unless @gabriel-fallen has any significant objections, I think it's fine to replace it with this one. My guess is that the current one is so long because it was a line-by-line translation from a lean3 version.

**Comment by gabriel-fallen** [comment]
Hi guys! I'm glad there's still an interest in this project. 😄

I'll tell you my reasoning, and then you can decide what to do with it.

First, yes, Lean 4 proofs are a translation of Lean 3 proofs, but not line-by-line. So it's more like a "port" of Lean 3 proofs. Still I kept all the theorems as is for easy comparison between the versions.

Second, I was aiming for "dumber", more straightforward, "educational" proofs without much automation or "clever" tricks.

With Strings in particular, one can simply say, "Strings are but a special case of lists, and we already have a proof for lists, thus it's a straightforward colorrary". And @suhr does this to a large degree with `simp [String.data_append, String.data_pushn]`. I also do a similar thing because, in the end, there's no other way, though I try to "push" it as far back as possible and construct more "high-level" lemmas in terms of properties of strings, not underlying lists.

But that was only _my_ approach, and you're free to replace it with whatever you see appropriate. 😊

On the other hand, I don't see why we can't have _both_ sets of proofs (in separate files).

Regarding the failure to build with the current Lean 4, I'll be able to check and possibly fix it later this week, I guess. If you're willing to wait, I'll try to have both proofs there and send a PR for your review. Otherwise, feel free to go ahead and send your own PR.

**Comment by suhr** [comment]
> Regarding the failure to build with the current Lean 4, I'll be able to check and possibly fix it later this week, I guess. If you're willing to wait, I'll try to have both proofs there and send a PR for your review.

Great. By the way, do we really need a port of an Lean 3 proof? Lean 3 is long deprecated now.

**Comment by gabriel-fallen** [comment]
> do we really need a port of an Lean 3 proof? Lean 3 is long deprecated now.

I think it's fair to keep it for historical and comparison purposes. But that's for @hwayne to decide.

**Comment by gabriel-fallen** [comment]
@hwayne closing? 😸
